US09403798B2
Methyl 2-(2,2,2-trifluoroethoxy)thiazole-5-carboxylate
To a tetrahydrofuran solution (5.0 mL) of sodium hydride (465 mg, 11.6 mmol) and 2,2,2-trifluoroethanol (1.70 mL, 23.3 mmol), methyl 2-bromothiazole-5-carboxylate (517 mg, 2.33 mmol) was added and the resultant mixture was stirred at room temperature for 2 hours. After completion of the reaction, 1 M sodium hydroxide aqueous solution was added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain a crude product of the title compound (444 mg).

reactant | sodium hydride | 11.6 mmol, 465 mg | [H-].[Na+]
reactant | 2,2,2-trifluoroethanol | 23.3 mmol, 1.70 mL | FC(CO)(F)F | C2H3F3O
reactant | methyl 2-bromothiazole-5-carboxylate | 2.33 mmol, 517 mg | BrC=1SC(=CN1)C(=O)OC | C5H4BrNO2S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | Methyl 2-(2,2,2-trifluoroethoxy)thiazole-5-carboxylate | 444 mg | FC(COC=1SC(=CN1)C(=O)OC)(F)F | C7H6F3NO3S
